US04110447
A mixture of 3.1 g of 1-morpholino-3-biphenylyl-butan-3-ol, 0.1 g of benzenesulfonic acid and 80 ml of benzene is boiled for 24 hours under a water separator. After working up in the customary manner, 1-morpholino-3-p-biphenylyl-2-butene is obtained.

reactant | 1-morpholino-3-biphenylyl-butan-3-ol | 3.1 g | O1CCN(CC1)CCC(C)(O)C1=C(C=CC=C1)C1=CC=CC=C1 | C20H25NO2
reactant | benzenesulfonic acid | 0.1 g | C1(=CC=CC=C1)S(=O)(=O)O | C6H6O3S
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 1-morpholino-3-p-biphenylyl-2-butene | O1CCN(CC1)CC=C(C)C1=C(C=CC=C1)C1=CC=CC=C1 | C20H23NO
